US07629358B2
Preparation 155: 2-{3-[2-({(2R)-2-{[tert-Butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)-2-methyl propyl]phenyl}-N-(3-pyrrolidin-1-ylpropyl)acetamide
The title compound was prepared from {3-[2-({(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)-2-methylpropyl]phenyl}acetic acid (preparation 154) and 1-pyrrolidinepropanamine, using a similar method to that of preparation 38, in 16% yield.

reactant | {3-[2-({(2R)-2-{[tert-butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)-2-methylpropyl]phenyl}acetic acid | [Si](C)(C)(C(C)(C)C)O[C@@H](CNC(CC=1C=C(C=CC1)CC(=O)O)(C)C)C1=CC(=C(C=C1)O)CO | C27H41NO5Si
reactant | 1-pyrrolidinepropanamine | N1(CCCC1)CCCN | C7H16N2
product | 2-{3-[2-({(2R)-2-{[tert-Butyl(dimethyl)silyl]oxy}-2-[4-hydroxy-3-(hydroxymethyl)phenyl]ethyl}amino)-2-methyl propyl]phenyl}-N-(3-pyrrolidin-1-ylpropyl)acetamide | 16% yield | [Si](C)(C)(C(C)(C)C)O[C@@H](CNC(CC=1C=C(C=CC1)CC(=O)NCCCN1CCCC1)(C)C)C1=CC(=C(C=C1)O)CO | C34H55N3O4Si
